US06362203B1
In a liquid mixture of 5 mL of methanol and 5 mL of dioxane was dissolved 180 mg (0.32 mmol) of 4-(4-hydroxy-4-(2-(3-acetoxypropoxy)phenyl)piperidino)-N,N-dimethyl-2,2-diphenylbutaneamide. To the resulting solution, 5 mL of a 1N aqueous solution of sodium hydroxide was added. The resulting mixture was stirred at room temperature for 1 hour. Water was added to the reaction mixture, followed by extraction with chloroform, washing with water and drying. The residue obtained by distilling off the solvent was purified by chromatography on a silica gel column, whereby 150 mg (yield: 89.8%) of 4-(4-hydroxy-4-(2-(3-hydroxypropoxy)phenyl)piperidino)-N,N-dimethyl-2,2-diphenylbutaneamide (Compound No. 25) was obtained.

reactant | methanol | 5 mL | CO | CH4O
reactant | dioxane | 5 mL | O1CCOCC1 | C4H8O2
reactant | 4-(4-hydroxy-4-(2-(3-acetoxypropoxy)phenyl)piperidino)-N,N-dimethyl-2,2-diphenylbutaneamide | 0.32 mmol, 180 mg | OC1(CCN(CC1)CCC(C(=O)N(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)C1=C(C=CC=C1)OCCCOC(C)=O | C34H42N2O5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | Water | O | H2O
product | 4-(4-hydroxy-4-(2-(3-hydroxypropoxy)phenyl)piperidino)-N,N-dimethyl-2,2-diphenylbutaneamide | 150 mg, yield: 89.8% | OC1(CCN(CC1)CCC(C(=O)N(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)C1=C(C=CC=C1)OCCCO | C32H40N2O4
